US05380731
Dissolve isonipecotic acid methyl ester in formaldehyde (19.4 mL of a 37.5% solution in water, 262 mmol) and treat with formic acid (10.2 mL of a 90% solution, 240 mmol). Heat on a steam bath for 2 hours and evaporate the solvent in vacuo. Dissolve the residue in ethyl ether, dry (MgSO4), filter and evaporate the filtrate in vacuo. Purify by distillation under an argon atmosphere to give 1-methyl-4-piperidinecarboxylic acid, methyl ester as a clear colorless oil (bp 195°-205° C., 760 mm).

reactant | isonipecotic acid methyl ester | COC(C1CCNCC1)=O | C7H13NO2
reactant | formic acid | C(=O)O | CH2O2
solvent | formaldehyde | C=O | CH2O
solvent | water | O | H2O
product | 1-methyl-4-piperidinecarboxylic acid, methyl ester | CN1CCC(CC1)C(=O)OC | C8H15NO2
